US08735379B2
The 2′,4′-difluoro-4-hydroxybiphenyl-3-carboxylic acid (1.0 g, 4.0 mmol) was dissolved in ethanol (30 mL) and sulfuric acid (8 mL). The solution was stirred (80° C., 18 h) and then concentrated. The residue was dissolved in ethyl acetate and washed with water, brine and dried over MgSO4. Solvent evaporation afforded 1.0 g of ethyl 2′,4′-difluoro-4-hydroxybiphenyl-3-carboxylate. Mass calculated for C15H12F2O3=278.25. found: [M+H]+=279.1.

reactant | 2′,4′-difluoro-4-hydroxybiphenyl-3-carboxylic acid | 4.0 mmol, 1.0 g | FC1=C(C=CC(=C1)F)C1=CC(=C(C=C1)O)C(=O)O | C13H8F2O3
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
product | ethyl 2′,4′-difluoro-4-hydroxybiphenyl-3-carboxylate | 1.0 g | FC1=C(C=CC(=C1)F)C1=CC(=C(C=C1)O)C(=O)OCC | C15H12F2O3
